US05891909
f) 3-Benzyloxy-5-methyl-1-(2-trifluoromethylphenylsulfonylamino)benzene
2-Trifluoromethylbenzenesulfonyl chloride (490 mg, 2.0 mmol) was added to a solution of 3-benzyloxy-5-methylaniline (426 mg, 2.0 mmol), as prepared in the preceding step, and N-methylmorpholine (0.5 mL) in dichloromethane (10 mL). The mixture was stirred at ambient temperature overnight. After adding additional dichloromethane (100 mL), the dichloromethane solution was washed with saturated aqueous NaHCO3 (2×50 mL), 10% HCl (2×50 mL), and brine (2×50 mL), and dried over Na2SO4. After evaporating the solvent in vacuo, the residue was purified by flash column chromatography (4:1 dichloromethane/hexane) to give the title compound as white solid (700 mg, 83%). 1H-NMR (300 MHz, CDCl3) δ 7.93 (d, J=7.8 Hz, 1 H), 7.85 (d, J=7.3 Hz, 1 H), 7.63 (t, J=7.7 Hz, 1 H), 7.53 (t,J=7.7 Hz, 1 H), 7.38 (m, 5 H), 6.60 (s, 1 H), 6.55 (s, 2 H), 6.40 (s, 1 H), 4.98 (s, 2 H), 2.20 (s, 3 H).

reactant | 2-Trifluoromethylbenzenesulfonyl chloride | 2.0 mmol, 490 mg | FC(C1=C(C=CC=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
reactant | 3-benzyloxy-5-methylaniline | 2.0 mmol, 426 mg | C(C1=CC=CC=C1)OC=1C=C(N)C=C(C1)C | C14H15NO
reactant | N-methylmorpholine | 0.5 mL | CN1CCOCC1 | C5H11NO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 3-Benzyloxy-5-methyl-1-(2-trifluoromethylphenylsulfonylamino)benzene | 700 mg, 83% | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)C)NS(=O)(=O)C1=C(C=CC=C1)C(F)(F)F | C21H18F3NO3S
